Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"my therapist ___ me"
 
Major Surgical or Invasive Procedure:
na
 
History of Present Illness:
Briefly, per ___ review and verified with patient this is a ___
year old unmarried, domiciled, female ___ freshman with
PPH of MDD (no prior hospitalizations, 1 prior suicide attempt
via alcohol overdose) and Borderline Personality Disorder who
presents on ___ from school therapist in the context of
recent suicidal ideation with plan to jump from 7-story garage
and overdose on medications.

Patient endorses chronic depressed mood and suicidality, with
recent worsening of depressive symptoms (depressed mood,
anhedonia, SI) over the past couple of weeks in anticipation of
her father's return from 4 months in ___ (she reports 
him
as being emotionally abusive and unsupportive). On ___, he
was supposed to pick her up from the train station but was not
there when she arrived. She became very upset that she would 
have
to wait for him and he called her a "spoiled brat." She also had
an argument with her boyfriend over the phone at that time over
cancelled plans. She says that she went up to the ___ floor of
the parking garage and was walking around thinking about 
jumping.
She says that she looked over the edge but did not "scale the
side of the building or anything." She then called ___ telling them that she was suicidal but hung up when they
told her they would send an ambulance for her. She smoked a
cigarette in the parking garage and called ___ to return to
her apartment to pick up a bag she had sold online. She said 
that
the suicidal thoughts did not completely go away (however, she
typically has them every other day). She denies pursuing another
plan, however, per OMR she had also called up friends to get
prescription medications for possible overdose. At home, the
patient became very overwhelmed and hit her head with her hands 
&
against the wall, which she says she often does as a way to calm
herself down. 

Additionally, the patient says that she did not do well on a
Physics quiz and texted her father about it. She says that he
started to insult her and so she told him that she wanted to 
kill
herself. She says that this was a way to convey the severity of
her depression to her father, who does not take it seriously. 
She
also reports a recent increase in panic attacks (1 earlier 
today,
___ yesterday), described as trouble breathing and shaking, in
response to recent psychosocial stressors. Today she made an
emergency appointment to see her new therapist at ___
(seen only once before, 3 weeks prior to today) for increased
depression/anxiety. At this appointment, the patient told her
therapist about her suicidality and was placed on a ___
and brought to the ED. 

The patient is very upset this and feels betrayed by the
therapist, she does not think that an ED visit or 
hospitalization
is the appropriate treatment (feels that finding a different
therapist, one that she sees ___ versus once every ___ weeks
as offered by the ___ would be the appropriate level of
care). She is not interested in medications as she is concerned
about the side effects and does not want to be dependent on a
medication (has previously refused SSRI's).  

Of note, patient has done extensive research on various forms of
committing suicide online, but says that the low success rates
keep her from pursuing them. For example, she explains that
overdosing on medications can leave you comatose, with brain
damage or other organ injury. Hanging herself with a noose has a
low success rate. She says that the only truly effective method
is via guillotine which she joked was not feasible. She says 
that
ideally she would die peacefully in her sleep, which also would
not carry the same stigma as suicide. Patient says that the
option of suicide is comforting to her because "if things get
back there is an out."

She has very little psychosocial support. She is not in contact
with her mother (alcohol use disorder, lives in ___, has a
tumultuous relationship with her father, has an "unhealthy"
relationship with boyfriend (though feels safe with him), and
denies any close friendships (she says that she has difficulty
with interpersonal relationships and trusting others given her
borderline personality disorder). She does not have an 
outpatient
psychiatrist or current therapist (she does not wish to see this
therapist again) and is not taking any psychiatric medications. 

 The patient endorses symptoms of depression including depressed
mood, anhedonia,  and thoughts of death/SI. She denied sleep
disturbance including insomnia or hypersomnia (sleeps
___ with assistance of marijuana and melatonin), loss 
of
appetite/weight changes, poor concentration, psychomotor
agitation or retardation. 

The patient denies symptoms of mania such as distractibility,
erratic behavior, grandiosity, increased activity, decreased 
need
for sleep, or talkativeness/pressured speech. However, she does
report racing thoughts when really depressed/anxious. 

The patient also denies psychotic symptoms such as auditory or
visual hallucinations, paranoia, or delusions. 

COLLATERAL:
Patient initially would not allow contact with anyone 
(explicitly
her father, boyfriend, or the referring therapist) as she
believed it would "escalate the situation."

Patient later gave permission to contact her boyfriend ___, ___ and father ___, ___. 
___: They have been together for approximately ___ year, says
she has been living in the school dorm. He says that he is aware
that she has been depressed in the past, that they discuss her
feelings, but he did not feel comfortable discussing further
details. When asked about patient suicidality, he reported "not
to my knowledge." Does not feel that patient has been more
depressed recently, but knows that she has been stressed about
school. Was not aware of circumstances prior to ED admission. He
did not feel comfortable divulging additional information and
requested to speak to the patient. 

___: unable to reach (either incorrect phone number or busy
tone)

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
 - Prior diagnoses: MDD (formally diagnosed in ___ year of
high school, but reports former suicide attempt following
freshman year of high school), Borderline Personality Disorder
(last year)
 - Hospitalizations: no prior psychiatric hospitalizations,
however, said she was kept in the hospital for 1 day following
previous suicide attempt
 - Current treaters and treatment: new therapist at ___
(seen once 3wks ago and again on day of presentation; did not
have a therapist prior to this); will not see this therapist
again as she feels betrayed that she placed her on a ___,
has seen a therapist in the past, has only seen prescribing
psychiatrist once (trial of Bupropion x 1wk, stopped seeing
because did not want to take medications)
 - Medication and ECT trials: Patient had 1 week trial of
Buproprion which she did not find helpful (last year), recently
started on Clonazepam and an anti-emetic PRN for her anxiety
 - Suicide attempts: following freshman year of high school,
patient drank 1L Vodka with several men she didn't know, says 
she
was kept overnight in hospital given concern that she had been
raped at that time, denies additional suicide attempts but has
chronic suicidality; night prior to presentation had considered
jumping from a 7-story parking garage and had contacted friends
to obtain medications for potential overdose
 - Self-injurious behavior: currently self-inflicted head trauma
(by hands, wall)- last done earlier today, previously cut (says
that she hasn't in ___ years)
 - Harm to others: denies
 - Access to weapons: denies

PAST MEDICAL HISTORY
 No history of seizures or head injuries.
 Primary Care Physician: ___ (per ___)

 
Social History:
SUBSTANCE ABUSE HISTORY:
 - Alcohol: ___ glasses of wine ___ per month
 - Cocaine/amphetamines/speed: denies
 - Opiates: denies
 - Benzodiazepines: clonazepam (has only used ___ PRN for "test
anxiety"
 - Marijuana/LSD/PCP: +Marijuana, uses daily
 - Tobacco: +2 cigarettes daily
 - Caffeine: denies

FORENSIC HISTORY:
 - Arrests: denies
 - Convictions and jail terms: denies
 - Current status (pending charges, probation, parole): denies

SOCIAL HISTORY:
 - Born/Raised: ___ 
 - Family/Support: patient denies, is not in contact with her
mother (lives in ___, alcohol use disorder), has tumultuous
relationship with father ("mentally abusive", feelings of
abandonment), no siblings or other family in the ___
 - Relationship status/Children: has been in ___ yr relationship
with current boyfriend, says she feels safe with him (not
abusive) but that they have an "unhealthy" relationship
 - Housing: previously been staying at father's home (as he had
been in ___ x___), now divides time between her
father's house, her boyfriend's place, and her college dorm
 - Education: freshman at ___, Biology Major
 - Employment/Income: does not have a job, but exchanges sexual
intercourse for money with consistent partner (a ___ y/o M,
once every 2 weeks)
 - Spiritual: spiritual but not religious
 - Trauma history: possible rape during suicide attempt freshman
year of high school, refused rape testing or legal action at 
that
time

 
Family History:
FAMILY PSYCHIATRIC HISTORY:
Mother- alcohol use disorder
 
Physical Exam:
VS: T 97.8F, HR 87, BP 126/84, RR 18, O2 Sat 100%

Neuropsychiatric Examination:
 *Appearance: lying on hospital stretcher with laptop,
young-appearing female (appears stated age), appropriately
dressed in hospital gown, good hygiene, well-groomed, well kept
on examination
 *Behavior: Cooperative and appropriate, good eye-contact,
attentive, psychomotor agitation (fidgeting with hands),
intermittently tearful, speech is mildly pressured
 *Mood and Affect: "I don't know", though says "emotionally
drained", affect is reactive, anxious, irritable, annoyed
 *Thought process: Linear, logical, coherent, goal-directed, no
LOA, flight of ideas, thought blocking
 *Thought Content: Endorses chronic SI has researched plans,
denies delusions, AH/VH/HI 
 *Judgment and Insight: Poor/Poor
 Cognition:
 *Attention: Attentive 
 *Orientation, and executive function: Awake, alert and oriented
to person, place, and time. Able to list DOWB without 
difficulty.
 *Calculation: $1.75 = 7 quarters
 *Abstraction: Apple/orange = "fruits
 *Proverb: "Don't judge a book by it's cover" - don't judge
someone by what they look like 
 *Memory: ___ registration, ___ recall
 *Fund of knowledge: intact   
 *Speech: Elevated rate, appropriate rhythm, volume, and 
prosody,
spontaneous, hyperverbal
 *Language: Fluent in ___ without paraphasic errors

ON DC:

VS: 98.3  128/81  99  16  96% on RA 
 
Mental Status Exam:
Appearance: well groomed. wearing leggings and a long-sleeve
T-shirt. thin young woman, long ___ hair. 
Behavior: Defensive at times. constricted body language. making
eye contact with everyone in the room when making her points. 
Psychomotor: no abnormal involuntary movements, gait - normal,
Speech: normal rate, volume and tone. pressured at times. 
Mood/affect: bright fluctuating with irritated. 
thought process/content: Reality oriented, goal directed, denies
SI/HI, denies AH/VH/paranoid delusions
She reports about positive plan for future. E.g., she talked 
about her plan to work on gradually improving her school. She 
considers going into medical school.

Intellectual Functioning: decreased concentration.
Oriented: x4
judgment: fair 
insight: fair

 
Pertinent Results:
___ 10:14PM BLOOD WBC-10.7* RBC-4.28 Hgb-13.9 Hct-39.9 
MCV-93 MCH-32.5* MCHC-34.8 RDW-12.6 RDWSD-43.2 Plt ___
___ 10:14PM BLOOD Glucose-79 UreaN-11 Creat-0.8 Na-137 
K-3.6 Cl-100 HCO3-20* AnGap-21*
___ 10:14PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
HOSPITAL COURSE SECTION OF DISCHARGE SUMMARY
1. LEGAL & SAFETY:  
On admission, the patient refused to sign a conditional 
voluntary agreement and was admitted on a ___, which was 
to expire on ___.  Pt was placed on 15 minute checks status on 
admission and remained on that level of observation throughout 
while being unit restricted.

2. PSYCHIATRIC:
#) Depression, suicidal ideation with plan. 
#) Probable borderline personality disorder vs less likely 
bipolar disorder
- We recommended initiation of antidepressant medication however 
the patient refused any daily medications as it was not in line 
with her "life philosophy". 
- We recommended ongoing therapy and psychopharmacology.
- We would recommend discontinuation of benzodiazepines in this 
patient 

3. SUBSTANCE USE DISORDERS:
#) Daily marijuana use. 

4. MEDICAL
#) No acute issues.  

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills.

#) Guardianship (if applicable): NA

Family meeting was held on ___.
During the family meeting with pt and her father ___ 
team asked father to share his concerns. 
Pt's father pervaded his perspective which did include a long 
history of suicide
threats prompted by minor frustrations or conflicts. Pt's father 
is not concerned about pt's immediate safety. 
Pt and her father were educated about team's clinical 
impression.
Specifically, we discussed issues of pt's impulsivity and 
patient's titrating information. This way, different 
participants in pt's life received different information.
Primary team clearly shared with father and patient concern 
about pt's risk long term: pt has hx of low frustration 
tolerance, impulsivity (e.g., substance use), hx of one suicide 
attempt (OD on EtOH). Pt was educated about risk of klonopin. Pt 
will be discharged without it.
Team's recommendations are: pt requires outpt psychopharm 
management, skills oriented therapy (DBT), intensive outpt 
program as step down from the hospital.
The patient continued to decline daily medication. However, her 
father appeared to understand the importance of this in the long 
run. 

Father was encouraged to connect to ___ and to support groups 
for relatives.

Per pt's repeated request and with pt's father agreement, pt 
will be discharged today (___): pt is not interested in 
medications or any other treatments on the unit. She remained in 
good behavioral control on the unit. THere are no legal grounds 
to impose treatment against patient's will.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself based upon active SI with a 
plan and history of SI with attempt.  Their static factors noted 
at that time include history of suicide attempts, history of 
abuse chronic mental illness, history of substance abuse, 
Caucasian race, marital status and the presence of a concurrent 
personality disorder.   The modifiable risk factors were also 
addressed at that time including access to ongoing mental health 
treatment.  Finally, the patient is being discharged with many 
protective risk factors, help-seeking nature, future-oriented 
viewpoint, good problem-solving skills, lack of current suicidal 
ideation, no history of abuse. Overall, Based on the totality of 
our assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Viorele (28) (desog-e.estradiol/e.estradiol) 0.15-0.02 mgx21 
/0.01 mg x 5 oral DAILY 
2. ClonazePAM 0.5 mg PO BID:PRN anxiety 
3. Ondansetron 8 mg PO DAILY:PRN nausea 

 
Discharge Medications:
1.  ClonazePAM 0.5 mg PO BID:PRN anxiety  
2.  Ondansetron 8 mg PO DAILY:PRN nausea  
3.  Viorele (28) (desog-e.estradiol/e.estradiol) 0.15-0.02 mgx21 
/0.01 mg x 5 oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Depression with SI
query boarderline personality disorder 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___, 

You were admitted to the inpatient psychiatry unit due to 
thoughts of suicide. 

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___